US06846492B2
c) 1-Nitro-2-(4-dodecyloxyphenyl)ethene
4-Dodecyloxybenzaldehyde (7.91 g; 27.25 mmol), ammonium acetate (1.57 g; 20.4 mmol) and nitromethane (2.57 ml; 48 mmol) are mixed together and the mixture is heated for 1.5 hours at 105° C. Cooling to 25° C. and extraction with tert-butyl methyl ether (50 ml) are then carried out, and the organic phase is dried over Na2SO4. After filtration, concentration to dryness by evaporation is carried out and the residue is suspended in methanol (80 ml). Filtration is then carried out, and the pale yellow crystals are washed with methanol and dried in vacuo.

reactant | 4-Dodecyloxybenzaldehyde | 27.25 mmol, 7.91 g | C(CCCCCCCCCCC)OC1=CC=C(C=O)C=C1 | C19H30O2
reactant | ammonium acetate | 20.4 mmol, 1.57 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 48 mmol, 2.57 ml | [N+](=O)([O-])C | CH3NO2
product | 1-Nitro-2-(4-dodecyloxyphenyl)ethene | [N+](=O)([O-])C=CC1=CC=C(C=C1)OCCCCCCCCCCCC | C20H31NO3
